US04282158
2 parts of [(tetrahydro-2H-pyran-2-ylidene)methyl]triphenylphosphonium chloride and 1.2 parts of cyclohexanecarboaldehyde were combined in 45 parts of xylene. This suspension was maintained under a nitrogen atmosphere and was refluxed for about 4 hours until a clear solution formed. After cooling the solution to room temperature, xylene was removed at a temperature of about 60° C. and under reduced pressure, leaving a product mixture. This mixture was separated chromatographically on a silica column using as the elution solvent 50 percent by volume of Skelly B in benzene, to yield 1-cyclohexyl-7-chloro-1-hepten-3-one.

reactant | [(tetrahydro-2H-pyran-2-ylidene)methyl]triphenylphosphonium chloride | [Cl-].O1C(CCCC1)=C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | cyclohexanecarboaldehyde | C1(CCCCC1)C=O | C7H12O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 1-cyclohexyl-7-chloro-1-hepten-3-one | C1(CCCCC1)C=CC(CCCCCl)=O | C13H21ClO
